US04221919
3-chloro-4-(4'-allyloxybenzyloxy) phenylacetic acid
The noted compound was prepared in accordance with the procedure described in section (f) from 4-allyloxybenzyl chloride and methyl-3-chloro-4-hydroxy-phenylacetate in 49.6% yield, m.p. 106°-107° C. (ethyl acetate).

reactant | 4-allyloxybenzyl chloride | C(C=C)OC1=CC=C(CCl)C=C1 | C10H11ClO
reactant | methyl-3-chloro-4-hydroxy-phenylacetate | COC(CC1=CC(=C(C=C1)O)Cl)=O | C9H9ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-4-(4'-allyloxybenzyloxy) phenylacetic acid | 49.6% yield | ClC=1C=C(C=CC1OCC1=CC=C(C=C1)OCC=C)CC(=O)O | C18H17ClO4
